US04594342
A mixture of 0.73 g of (-)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 5 ml of acetic anhydride and 0.1 ml of pyridine is treated in the same manner as described in Example 1-(2), whereby 0.92 g of (-)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained as an oil. (3) A mixture of 0.92 g of (-)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 2 ml of 25% hydrogen bromide-acetic acid and 2 ml of acetic acid is stirred at room temperature for 2 hours. The mixture is evaporated under reduced pressure to remove solvent. Toluene is added to the residue, and the mixture is evaporated under reduced pressure to remove solvent. Ether is added to the residue, and the resultant crystals are collected by filtration and washed with ether. A mixture of the crystals thus obtained, 2 ml of ethanol and 2 ml of an aqueous 5% sodium hydroxide solution is stirred at room temperature for 2 hours. The mixture is adjusted to pH 8 with acetic acid, and then extracted with chloroform. The extract is washed with water, dried and evaporated under reduced pressure to remove solvent. The residue is converted to its hydrochloride and recrystallized from isopropanol. 0.32 g of (-)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride hemihydrate is obtained.

reactant | (-)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.73 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)C | C28H30N2O4S
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
product | (-)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.92 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)C | C30H32N2O5S
